US03931239
Step A: 4,5-Dimethyl-6-hydroxy-7-propyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]-furan-2-carboxylic acid
A solution of 4,5-dimethyl-6-oxo-7-propyl-7,8-dihydro-6H-indeno[5,4-b]furan-2-carboxylic acid (2.0 g., 0.007 mole) in aqueous sodium bicarbonate (40 ml.) is treated with 1% sodium amalgam (120 g.) and stirred at 25°C. for 18 hours. The mercury is separated and the aqueous phase is acidified with hydrochloric acid affording 2.0 g. (99%) of 4,5-dimethyl-6-hydroxy-7-propyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid which melts at 161°C. after recrystallization from nitromethane.

reactant | 4,5-dimethyl-6-oxo-7-propyl-7,8-dihydro-6H-indeno[5,4-b]furan-2-carboxylic acid | 0.007 mole, 2.0 g | CC1=C(C=2C(C(CC2C2=C1OC(=C2)C(=O)O)CCC)=O)C | C17H18O4
solvent | sodium bicarbonate | 40 ml | C([O-])(O)=O.[Na+]
catalyst | sodium amalgam | 120 g | [Na].[Hg]
product | 4,5-Dimethyl-6-hydroxy-7-propyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]-furan-2-carboxylic acid | CC1=C(C=2C(C(CC2C2=C1OC(C2)C(=O)O)CCC)O)C | C17H22O4
